US04929639
A solution of (2R,4S,5R)-4-t-butyldimethylsiloxymethyl-5-hydroxy-2-methyl-1,3-dioxane (4.2 g) in a mixture of benzene (30 ml) and dimethylsulfoxide (5.7 ml) were added pyridine (1.30 ml), trifluoroacetic acid (0.62 ml) and N,N'-dicyclohexylcarbodiimide (9.90 g) under cooling in an ice bath and the mixture was stirred at room temperature for 3 hours. The resulting solution were added ethyl acetate (50 ml) and water (30 ml) and stirred for 30 minutes. After removal of insoluble urea by filtration, the organic layer was separated and washed successively with water and brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give crude oil. The oil was purified with silica gel column (50 g) (n-hexane : ethyl acetate=10:1) to give (2R,4S) 4 t-butyldimethylsiloxymethyl-2-methyl-1,3-dioxan-5-one (3.22 g) as a pale yellow oil.

reactant | (2R,4S,5R)-4-t-butyldimethylsiloxymethyl-5-hydroxy-2-methyl-1,3-dioxane | 4.2 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OC[C@H]1O)C | C12H26O4Si
reactant | pyridine | 1.30 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid | 0.62 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N'-dicyclohexylcarbodiimide | 9.90 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylsulfoxide | 5.7 ml | CS(=O)C | C2H6OS
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2R,4S) 4 t-butyldimethylsiloxymethyl-2-methyl-1,3-dioxan-5-one | 3.22 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OCC1=O)C | C12H24O4Si
